US06489318B1
Allyl 4-hydroxy-5,6-dihydro-2H-thiopyrane-3-carboxylate
To a mixture of sodium sand (23 g; 1.0 mole) (Vogel's Textbook of Practical Organic Chemistry, Fourth Ed., Longman, London, 1978, p. 313) and anhydrous diethyl ether (3.4 1), allyl alcohol (65.8 ml) was slowly added. The obtained reaction mixture was stirred for two days at room temperature and then diallyl 3,3′-thiodipropionate (129.0 g; 0.5 mole) prepared according to the process disclosed in Example 1 was slowly added drop by drop. The mixture was stirred for another day at room temperature and then under ice cooling first absolute ethanol (10 ml) and then water (400 ml) and concentrated hydrochloric acid (455 ml) were added and it was stirred until the whole was dissolved. The phases were separated. The obtained organic phase was washed with water (400 ml), a 7% sodium hydrogencarbonate solution (3×400 ml) and once more with water (200 ml). The organic phase was dried with magnesium sulfate, the drying agent was filtered off, the filtrate was evaporated and dried. The title compound (42.4 g; 42%) was obtained as a crude product in the form of a yellowish oil.

reactant | sodium | 1.0 mole, 23 g | [Na] | Na
reactant | allyl alcohol | 65.8 ml | C(C=C)O | C3H6O
reactant | diallyl 3,3′-thiodipropionate | 0.5 mole, 129.0 g | S(CCC(=O)OCC=C)CCC(=O)OCC=C | C12H18O4S
reactant | hydrochloric acid | 455 ml | Cl | ClH
solvent | water | 400 ml | O | H2O
solvent | diethyl ether | C(C)OCC | C4H10O
product | Allyl 4-hydroxy-5,6-dihydro-2H-thiopyrane-3-carboxylate | 42.4 g, 42% | OC1=C(CSCC1)C(=O)OCC=C | C9H12O3S
